US06951848B2
5-Hydroxy-2-methyl-1H-indole-3-carboxylic acid benzyl ester (1.0 g, 3.56 mmol), 2-bromobut-2-one (0.806 g, 5.33 mmol) and K2CO3 (1.47 g, 10.7 mmol) were mixed together in acetone (30 mL) and stirred at room temperature for 4 hours. The mixture was then filtered, concentrated under reduced pressure and redissolved in ethyl acetate. The resulting solution was washed with deionized water twice and dried over anhydrous Na2SO4. The crude was chromatographed (5% EtOAc/CH2Cl2) to give 0.97 g (77%) of 2-methyl-5-(1-methyl-2-oxo-propoxy)-1H-indole-3-carboxylic acid as a viscous oil. 1HNMR (400 MHz, DMSO): δ 1.36 (d, J=6.75 Hz, 3H), 2.06 (s, 3H, CH3CO), 2.59 (s, ArCH3), 4.67 (q, J=6.75 Hz, 1H), 5.28 (s, 2H), 6.73 (d, J=8.44 Hz, 1H), 7.23 (d, J=8.64 Hz, 1H), 7.29-7.46 (m, 6H), 11.76 (s, 1H, NH). MS (APCI+). Anal. Calcd for C21H21N1O4: C, 71.78; H, 6.02; N, 3.99. Found: C, 71.46: H, 6.04: N, 3.76. IR (KBr): 3276, 1715, 1659, 1458, 1168, 1078 cm−1.

reactant | 5-Hydroxy-2-methyl-1H-indole-3-carboxylic acid benzyl ester | 3.56 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)O)C | C17H15NO3
reactant | K2CO3 | 10.7 mmol, 1.47 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 30 mL | CC(=O)C | C3H6O
product | 2-methyl-5-(1-methyl-2-oxo-propoxy)-1H-indole-3-carboxylic acid | 0.97 g, 77% | CC=1NC2=CC=C(C=C2C1C(=O)O)OC(C(C)=O)C | C14H15NO4
